US04621084
6-(3-Methylimidazo[1,2-a]pyridin-2-yl)-2-methylaminobenzothiazole (0.55 g) was prepared in substantially the same manner as that of Example 36 from 3-methyl-2-[4-(3-methylthioureido)phenyl]imidazo[1,2-a]pyridine (2.49 g) and bromine (1.34 g). mp. 251°-254° C. (dec.).

reactant | 3-methyl-2-[4-(3-methylthioureido)phenyl]imidazo[1,2-a]pyridine | 2.49 g | CC1=C(N=C2N1C=CC=C2)C2=CC=C(C=C2)NC(=S)NC | C16H16N4S
reactant | bromine | 1.34 g | BrBr | Br2
product | 6-(3-Methylimidazo[1,2-a]pyridin-2-yl)-2-methylaminobenzothiazole | 0.55 g | CC1=C(N=C2N1C=CC=C2)C2=CC1=C(N=C(S1)NC)C=C2 | C16H14N4S
